US07985764B2
A 250 mg portion of 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylic acid, 231 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 54 mg of 1-hydroxybenzotriazole were dissolved in 8 ml of N,N-dimethylformamide, and then 106 mg of N,N-dimethyl-1,2-ethanediamine was added, followed by overnight stirring at room temperature. The reaction liquid was diluted with chloroform and then washed with a 1 M sodium hydroxide aqueous solution and saturated brine, and dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=100:1:0.1 to 50:1:0.1 to 30:1:0.1) to obtain 257 mg of N-[2-(dimethylamino)ethyl]-2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxamide as a colorless oily material. This product was dissolved in 2.5 ml of acetonitrile at 80° C., and 67 mg of oxalic acid was added, followed by stirring at 80° C. for 10 minutes and then stirring at room temperature for 2 hours. The resulting solid was collected by filtration and then washed with acetonitrile to obtain 236 mg of N-[2-(dimethylamino)ethyl]-2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxamide oxalate as a pale purple solid.

reactant | 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylic acid | C(C)C=1N(C2=CC=C(C=C2C1C)C(=O)O)CC1=CC=C(C=C1)F | C19H18FNO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 231 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 54 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-dimethyl-1,2-ethanediamine | 106 mg | CN(CCN)C | C4H12N2
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(dimethylamino)ethyl]-2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxamide | 257 mg | CN(CCNC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)F)CC)C)C | C23H28FN3O
